*****************************************************************
* NXP PSMN3R7_25YLC
*
* Polarity N-Channel
* Ratings 25V/3.9E-03OHMS/20A
*
* Date Created Sat Apr  2 18:04:42 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R7_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000836


RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00212512959594981 TC=0.00826289589494683,-1.10662289118957e-05
RBD 9 4 0.000952055121507356 TC=0.00826289589494683,-1.10662289118957e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.0776012161729e-09
RG 1 2 1.67663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1636.2
+ -10	1633.8
+ -5	1626.1
+ -4	1642.8
+ -3	1623.1
+ -2	1482.4
+ -1	1005.5
+ -0.5	844.7
+ -0.2	740.0
+ -0.1	704.8
+ 0	668.9
+ 0.1	619.5
+ 0.2	571.8
+ 0.5	451.7
+ 1	332.7
+ 2	240.2
+ 3	204.2
+ 4	183.5
+ 5	170.1
+ 6	160.9
+ 8	148.4
+ 10	140.3
+ 12	134.8
+ 15	128.0
+ 20	119.5


.MODEL MINT NMOS(Vto=1.89975659129148 Kp=2.3129e+02 Nfs=460000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1100)

.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=1.01820099465278e-12
+ N=1 M=0.730000000000001 VJ=0.89 Fc=0.5 Cjo=1.7012e-09 Tt=2.29e-08)

.ENDS

